US07384952B2
To a solution of methyl 5-aminofuran-2-carboxylate (1.0 g) and pyridine (1.2 mL) in methylene chloride (6.0 mL) is added dropwise cyclopropanecarbonyl chloride (0.78 mL) under ice-cooling and the mixture is stirred at room temperature for 2 hours. To the reaction mixture is added a saturated sodium hydrogencarbonate solution and the mixture is extracted with chloroform. The extract is dried over anhydrous sodium sulfate and concentrated in vacuo. The residue is purified by column chromatography on silica gel (Solvent; n-hexane:ethyl acetate=3:1) to give methyl 5-[(cyclopropylcarbonyl)amino]furan-2-carboxylate (0.82 g, yield; 56%) as colorless crystals. MS (APCI) m/z: 210 [M+H]+

reactant | methyl 5-aminofuran-2-carboxylate | 1.0 g | NC1=CC=C(O1)C(=O)OC | C6H7NO3
reactant | pyridine | 1.2 mL | N1=CC=CC=C1 | C5H5N
reactant | cyclopropanecarbonyl chloride | 0.78 mL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 6.0 mL | C(Cl)Cl | CH2Cl2
product | methyl 5-[(cyclopropylcarbonyl)amino]furan-2-carboxylate | 0.82 g, yield; 56% | C1(CC1)C(=O)NC1=CC=C(O1)C(=O)OC | C10H11NO4
